US05302724
B. 5-Ethoxy-N-[[(4-chlorophenyl)amino]carbonyl]-2-thiophenesulfonamide
To a solution of 4-chloroaniline (0.99 g, 7.8 mmole) in 30 ml of anhydrous THF at -78° C. under nitrogen was added chlorosulfonylisocyanate (1.09 g, 7.8 mmole). This mixture was stirred at -78° C. for 1 hr. 2-Ethoxythiophene (1 g, 7.8 mmole) was added, the ice bath was removed, and the reaction was stirred at room temperature for 2 hrs. The reaction was partially concentrated under vacuum, added to water and extracted with ethyl acetate. The organic layer was dried (sodium sulfate), filtered and concentrated under vacuum. The oil was chromatographed (4% methanol/methylene chloride) on silica gel. The desired fractions concentrated under vacuum and the resulting oil was dissolved in ethyl acetate (20 ml) and triturated with hexanes (450 ml) to provide 0.6 g of solid after drying under vacuum.

reactant | 4-chloroaniline | 7.8 mmole, 0.99 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | chlorosulfonylisocyanate | 7.8 mmole, 1.09 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-Ethoxythiophene | 7.8 mmole, 1 g | C(C)OC=1SC=CC1 | C6H8OS
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5-Ethoxy-N-[[(4-chlorophenyl)amino]carbonyl]-2-thiophenesulfonamide | 0.6 g | C(C)OC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=CC=C(C=C1)Cl | C13H13ClN2O4S2
